US06194406B1
Alternately, combine 1-carbobenzyloxy-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine (5.7 g, 14.1 mmol), 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt (7.52 g, 213.8 mmol), and N,N-diisopropylethylamine (9.6 mL, 55 mmol) in acetonitrile (200 mL). Heat to reflux. After 18 hours, evaporate in vacuo to give a residue. Combine the residue and dichloromethane. Extract twice with saturated aqueous sodium bicarbonate solution and then brine. Dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give residue. Chromatograph the residue on silica gel eluting sequentially with ethyl acetate and then 5% methanol/dichloromethane to give 1-carbobenzyloxy-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine: Rf=0.38 (silica gel, 5% methanol/dichloromethane).

reactant | 1-carbobenzyloxy-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine | 14.1 mmol, 5.7 g | C(=O)(OCC1=CC=CC=C1)N1CC(CC1)(CCOS(=O)(=O)C)C1=CC=CC=C1 | C21H25NO5S
reactant | 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt | 213.8 mmol, 7.52 g | I.C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2
reactant | N,N-diisopropylethylamine | 55 mmol, 9.6 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
solvent | methanol dichloromethane | CO.ClCCl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-carbobenzyloxy-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine | C(=O)(OCC1=CC=CC=C1)N1CC(CC1)(C1=CC=CC=C1)CCN1CCN(CCC1)C1=NC2=C(N1CCOCC)C=CC=C2 | C36H45N5O3
